US08614213B2
Step 3: (4-Benzylamino-3-methyl-cyclohexyl)-methanol
A cooled (0° C.) mixture comprising 4-benzylamino-3-methyl-cyclohexanecarboxylic acid ethyl ester (0.90 g, 3.27 mmol) in THF (50 mL) is treated with LiAlH4 (4.09 mL, 8.08 mmol of a 2M solution in THF) and the reaction mixture is stirred at RT for 2 hours. The reaction is quenched with water (5 mL), NaOH (5 mL) followed by water (20 mL). The resulting precipitate is removed by filtration and washed with EtOAc. The organic phase is washed with water, brine, dried (MgSO4) and concentrated in vacuo to afford the title compound which is used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.30 (4H, m), 7.19 (1H, m) 4.31 (1H, t), 3.68 (2H, m), 3.29 (0.4H, t), 3.15 (1.6H, t), 2.45 (1H, m), 2.18 (0.2H, m), 2.06 (0.8H, m), 1.69 (2H, m), 1.52 (3H, m), 1.27 (2H, m), 1.03 (1H, m), 0.90 (0.6H, d), 0.88 (2.4H, d), 0.80 (1H, m).

reactant | 4-benzylamino-3-methyl-cyclohexanecarboxylic acid ethyl ester | 3.27 mmol, 0.90 g | C(C)OC(=O)C1CC(C(CC1)NCC1=CC=CC=C1)C | C17H25NO2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-Benzylamino-3-methyl-cyclohexyl)-methanol | C(C1=CC=CC=C1)NC1C(CC(CC1)CO)C | C15H23NO
